**********
* Copyright Intusoft 1994-1997
* All Rights Reserved
**********
**********
*SRC=DG200;DG200;Analog Switch;;
*SYM=ANSWITCH
.SUBCKT DG200  6  10  17 7  3    15 18
*Connections   In Gnd S  D  Vref V- V+
M1 6 8 21 21 NMOS W=55U
M2 12 21 9 9 NMOS W=55U
M3 5 4 9 9 NMOS W=55U
M4 9 14 15 15 NMOS W=55U
R1 14 10 5K
R2 10 3 23K
R3 4 3 5K
R4 8 18 5K
R5 18 3 220K
M5 12 5 18 18 PMOS W=55U
M6 5 5 18 18 PMOS W=55U
M7 2 12 6 10 NMOS W=55U
M8 2 12 18 18 PMOS W=55U
M9 20 2 16 15 NMOS W=55U
M10 20 2 18 18 PMOS W=55U
M11 16 2 18 18 PMOS W=55U
M12 16 2 15 15 NMOS W=55U
M13 19 20 18 18 PMOS W=55U
M14 19 20 15 15 NMOS W=55U
M15 7 20 17 11 NMOS
M16 17 19 7 18 PMOS 
M17 17 20 11 11 NMOS 
M18 11 19 15 15 NMOS 
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.4M GAMMA=.124
+ PHI=.75 LAMBDA=2.49M RD=13.5 RS=2.5 IS=10F PB=.8 MJ=.46
+ CBD=63.6P CBS=76.3P CGSO=84.2N CGDO=70.2N CGBO=115N)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=1.4M GAMMA=.124
+ PHI=.75 LAMBDA=2.49M RD=17.1 RS=4.1 IS=10F PB=.8 MJ=.46
+ CBD=85.9P CBS=103P CGSO=113N CGDO=94.8N CGBO=156N)
.ENDS
**********
*SRC=DG201;DG201;Analog Switch;;
*SYM=ANSWITCH
.SUBCKT DG201  6  10  17 7  3    15 18
*Connections   In Gnd S  D  Vref V- V+
M1 6 8 21 21 NMOS W=55U
M2 12 21 9 9 NMOS W=55U
M3 5 4 9 9 NMOS W=55U
M4 9 14 15 15 NMOS W=55U
R1 14 10 5K
R2 10 3 23K
R3 4 3 5K
R4 8 18 5K
R5 18 3 220K
M5 12 5 18 18 PMOS W=55U
M6 5 5 18 18 PMOS W=55U
M7 2 12 6 10 NMOS W=55U
M8 2 12 18 18 PMOS W=55U
M9 20 2 16 15 NMOS W=55U
M10 20 2 18 18 PMOS W=55U
M11 16 2 18 18 PMOS W=55U
M12 16 2 15 15 NMOS W=55U
M13 19 20 18 18 PMOS W=55U
M14 19 20 15 15 NMOS W=55U
M15 7 20 17 11 NMOS
M16 17 19 7 18 PMOS 
M17 17 20 11 11 NMOS 
M18 11 19 15 15 NMOS 
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=.74M GAMMA=.124
+ PHI=.75 LAMBDA=2.49M RD=13.5 RS=2.5 IS=10F PB=.8 MJ=.46
+ CBD=35.3P CBS=42.4P CGSO=46.8N CGDO=39N CGBO=64.2N)
.MODEL PMOS PMOS (LEVEL=1 VTO=-1 KP=.6M GAMMA=.1
+ PHI=.75 LAMBDA=2.49M RD=17.1 RS=4.1 IS=10F PB=.8 MJ=.46
+ CBD=94.2P CBS=113P CGSO=124N CGDO=104N CGBO=171N)
.ENDS
**********
*SRC=CD4066B;CD4066B;Analog Switch;;
*SYM=CD4066B
.SUBCKT CD4066B 11 4   2       10  7
*Analog Switch  In Out Control Vdd Vss
X1 2 6 10 7 INVERT
X2 6 1 10 7 INVERT
M1 14 6 7 7 CD4001BN
M7 11 6 14 10 CD4001BP
M3 11 1 14 14 CD4001BN
M4 11 1 4 14 CD4001BN
M8 11 6 4 10 CD4001BP
.MODEL CD4001BN NMOS (LEVEL=1 VTO=3.5 KP=3.2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=23.2 RS=90.1 IS=31.2F PB=.8 MJ=.46
+ CBD=63.5P CBS=76.2P CGSO=93.6N CGDO=78N CGBO=128N)
.MODEL CD4001BP PMOS (LEVEL=1 VTO=-3.0 KP=2.4M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=21.2 RS=62.2 IS=31.2F PB=.8 MJ=.46
+ CBD=63.5P CBS=76.2P CGSO=93.6N CGDO=78N CGBO=128N)
.ENDS
.SUBCKT INVERT 1  2   3   4
* Inverter    In Out Vcc Vss
M1 2 1 3 3 CD4049P
M2 2 1 4 4 CD4049N
.MODEL CD4049P PMOS (LEVEL=1 VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2 RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.MODEL CD4049N NMOS (LEVEL=1 VTO=2.1 KP=5M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=4.2 RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N CGDO=26N CGBO=42.8N)
.ENDS
**********
